US06218392B1
6-Carbamoyl-2,3-dihydro-1,4-phthalazinedione
4-Carbamoylphthalimide (2.00 g, 0.011 mol) was suspended in 12 ml of N-methyl-2-pyrrolidinone, followed by the dropwise addition of 0.8 ml of hydrazine hydrate. The obtained mixture was stirred at room temperature for 30 minutes, followed by the addition of 5.5 ml of 3N hydrochloric acid and 50 ml of water. The crystals thus precipitated were recovered by filtration, washed with water and dried with hot air. The title compound (2.0 g) was obtained as a light brown crystal (yield: 94%).

reactant | 4-Carbamoylphthalimide | 0.011 mol, 2.00 g | C(N)(=O)C=1C=C2C(C(=O)NC2=O)=CC1 | C9H6N2O3
reactant | hydrazine hydrate | 0.8 ml | O.NN
reactant | hydrochloric acid | 3N, 5.5 ml | Cl | ClH
reactant | water | 50 ml | O | H2O
solvent | N-methyl-2-pyrrolidinone | 12 ml | CN1C(CCC1)=O | C5H9NO
product | 6-Carbamoyl-2,3-dihydro-1,4-phthalazinedione | 2.0 g | C(N)(=O)C=1C=C2C(NNC(C2=CC1)=O)=O | C9H7N3O3
